US03939172
The method of preparing 4-aminothiazole comprising reacting 2-bromo-4-trifluoroacetamidothiazole under low pressure catalytic hydrogenation conditions in the presence of a noble metal catalyst to give 4-trifluoroacetamidothiazole then reacting said 4-trifluoroacetamidothiazole with sodium or potassium hydroxide in an aqueous medium at from about 30°-35°C. for about 4-8 hours.

reactant | 4-aminothiazole | NC=1N=CSC1 | C3H4N2S
reactant | 2-bromo-4-trifluoroacetamidothiazole | BrC=1SC=C(N1)NC(C(F)(F)F)=O | C5H2BrF3N2OS
product | 4-trifluoroacetamidothiazole | FC(C(=O)NC=1N=CSC1)(F)F | C5H3F3N2OS
